US04739123
Among the thus produced fluorine-containing compounds (I), monochloromethyl 2-trifluoromethyl-3,3,3-trifluoropropanoate is reacted with an amine to give 2-trifluoromethyl-3,3,3-trifluoropropene in a high yield.

reactant | fluorine | FF | F2
reactant | monochloromethyl 2-trifluoromethyl-3,3,3-trifluoropropanoate | FC(C(C(=O)OCCl)C(F)(F)F)(F)F | C5H3ClF6O2
product | 2-trifluoromethyl-3,3,3-trifluoropropene | FC(C(=C)C(F)(F)F)(F)F | C4H2F6
